US06316440B1
A solution of 171 mg (0.4 mmol) [2-(4-benzyloxy-phenyl)-1-(diethylamino-methyl)-ethyl]-carbamic acid tert-butyl ester in 2 mL dichloromethane was treated with 0.5 mL 2,2,2-triflouroacetic acid and the resulting solution stirred 3 hours at 25° C. The mixture was concentrated at reduced pressure to a viscous amber oil to which was added 30 mL saturated aqueous sodium bicarbonate solution and the resulting mixture extracted with three 20 mL portions of ethyl acetate. The combined extracts were washed with two 50 mL portions of brine, dried over anhydrous sodium sulfate, and concentrated at reduced pressure and the residue purified by column chromatography using ethyl acetate containing 1% methanol as eluent. There was obtained 112 mg (90%) of (S)-3-(4-benzyloxy-phenyl)-N1,N1-diethyl-propane-1,2-diamine as a clear, colorless oil.

reactant | [2-(4-benzyloxy-phenyl)-1-(diethylamino-methyl)-ethyl]-carbamic acid tert-butyl ester | 0.4 mmol, 171 mg | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)CN(CC)CC)=O | C25H36N2O3
reactant | 2,2,2-triflouroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)-3-(4-benzyloxy-phenyl)-N1,N1-diethyl-propane-1,2-diamine | 112 mg, 90% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C[C@@H](CN(CC)CC)N | C20H28N2O
